* ============================================
* Test: hold_snm.spice
* Cell: 6T_03v3
* PDK: GF180mcuD
* Author: R. Gupta
* Date: 2026-06-19
* ============================================

* -- includes --
.include /workspace/analog/tests/6T_open_tb.spice

* -- stimulus --
VVDD vdd 0 3.3                      ; supply
VVSS vss 0 0                        ; source
VWL  wl  0 0                        ; hold: OFF
VU   u   0 0                        ; input voltage to be swept

* -- initial conditions --
.ic v(q)=3.3 v(qb)=0        ; initial state: Q=1, QB=0
.ic v(bl)=0.1 v(blb)=0.1    ; initial state pre-charged to 0.1V - common for idle power reduction

* -- SNM rotation transformation --
BV1 v1   0 v= sqrt(2)*v(q)+v(u)
BV2 v2   0 v= sqrt(2)*v(qb)-v(u)
BQ  qin  0 v=(v(v1)+v(u))* 1/sqrt(2)  ; input to inverter Q
BQB qbin 0 v=(v(v2)-v(u))* 1/sqrt(2)  ; input to inverter QB

* -- analysis --
.control
  save all
  
  * --- DC sweep the original input voltage ---
  dc VU -1.65 1.65 0.001

  * plot v(q) v(qb)
  * --- variables for SNM calculation ---
  let diff = (v(v1) - v(v2))/sqrt(2)

  * --- measure data ---
  echo
  meas DC hold_snm_max MAX diff
  meas DC hold_snm_min MIN diff
  echo
  let hold_snm = min(abs(hold_snm_max), abs(hold_snm_min))
  print hold_snm
  echo
  * --- save .raw for python parsing ---
  write /workspace/analog/sim/6t/results/hold_snm.raw all

.endc

.end